US07037935B2
A solution of 2.63 g (9.3 mmol) of 1,4-difluoro-2-(3-fluoro-benzyloxy)-5-nitro-benzene in 25 ml of ethyl acetate is hydrogenated with Pt/C (5%) as the catalyst under normal pressure during 3 hours. For the working-up, the catalyst was filtered over a Dicalit layer and the solution evaporated under reduced pressure. There are obtained 2.25 g (95% of theory) of 2,5-difluoro-4-(3-fluoro-benzyloxy)-phenylamine as a brown solid; MS: m/e=253 (M)+. The crude product is engaged in the next step without further purification.

reactant | 1,4-difluoro-2-(3-fluoro-benzyloxy)-5-nitro-benzene | 9.3 mmol, 2.63 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)OCC1=CC(=CC=C1)F | C13H8F3NO3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pt/C | [Pt] | Pt
product | 2,5-difluoro-4-(3-fluoro-benzyloxy)-phenylamine | 2.25 g, 95% | FC1=C(C=C(C(=C1)OCC1=CC(=CC=C1)F)F)N | C13H10F3NO
